US05654316
3-(3,4-Dichlorophenyl)glutaric acid
Diethyl-3,4-dichlorobenzal-bis-acetoacetate (155 g) in ethanol 2 L) was treated with 50% NaOH (2 L) and heated at reflux temperature for 4 hours. Water (1 L) was added to the reaction mixture and approx. 1.5 L of solvent removed by distillation. The remaining solution was poured onto ice (1 Kg) and sufficient HCl was added to adjust the pH to 1. The resulting solution was extracted with EtOAc (3×1.5 L) and the combined extracts dried over MgSO4, filtered and concentrated to give 100 g of the title compound.

reactant | Diethyl-3,4-dichlorobenzal-bis-acetoacetate | 155 g | C(C)OC(CC(=O)CC(C1=CC(=C(C=C1)Cl)Cl)CC(CC(=O)OCC)=O)=O | C19H22Cl2O6
reactant | NaOH | 2 L | [OH-].[Na+]
reactant | Water | 1 L | O | H2O
solvent | ethanol | 2 L | C(C)O | C2H6O
product | 3-(3,4-Dichlorophenyl)glutaric acid | 100 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)O | C11H10Cl2O4
